US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and 3-cyanobenzoyl chloride were combined to provide N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-3-cyanobenzamide as a white crystalline solid, m.p. 200.0-201.0° C. (decomposition). 1H NMR (300 MHz, DMSO-d6) δ8.68 (t, J=5.7 Hz, 1H), 8.22 (s, 1H), 8.17 (t, J=1.8 Hz, 1H), 8.10-7.97 (m, 3H), 7.69-7.60 (m, 2H), 7.42 (dt, J=7.5, 1.2 Hz, 1H), 7.20 (dt, J=7.5, 1.5 Hz, 1H), 6.62 (s, 2H), 4.63 (t, J=6.9 Hz, 2H), 3.32 (m, 2H), 1.91 (quintet, J=7.5 Hz, 2H), 1.59 (quintet, J=7.5 Hz, 2H); IR (KBr) 3455, 3295, 3072, 2941, 2231, 1638, 1581, 1527, 1479, 1396, 1312, 1251, 1205 cm−1; MS (EI) m/e 384.1699 (384.1699 calcd for C22H20N6O).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 3-cyanobenzoyl chloride | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-3-cyanobenzamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=CC(=CC=C2)C#N)=O | C22H20N6O
